US05859011
Dimethyl 4-(2,6-dichlorophenyl)-2-(4-methyl-1- piperazinyl)carbonylmethyl-6-(2-phenylethyl)-1,4-dihydropyridine-3,5-dicarboxylate
A mixture of dimethyl 4-(2,6-dichlorophenyl)-2-methoxycarbonylmethyl-6-(2-phenylethyl)-1,4-dihydropyridine-3,5-dicarboxylate (3.9 g, 7.52 mmol), methanol(35 ml), water (5 ml), and 6N NaOH (2.51 ml, 15.05 mmol) was stirred at room temperature for 1.25 h. The reaction mixture was diluted with dichloromethane (100 ml) followed by addition of 6 NHCl (3 ml) and water (100 ml). The organic layer separated was washed twice with water and brine, dried over Na2SO4, and concentrated to 50 ml. To this solution was added N-methylpiperazine (1.25 ml, 11.28 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.162 g, 11.28 mmol) at 0° C. and stirred for 0.5 h, then ice bath was removed and stirring was continued at room temperature overnight. The reaction mixture was washed with water, NaHCO3 aqueous solution and brine, and dried over Na2SO4. The solvent was evaporated and the crude product was chromatographed on 234 g silica gel (dichloromethane/ethyl acetate: 22/3 as eluent) to give 3.48 g. This was taken up in 17 ml ether and stirred, giving 2.63 g of crystals after drying under high vacuum at 78° C., mp 138°-139° C.

reactant | dimethyl 4-(2,6-dichlorophenyl)-2-methoxycarbonylmethyl-6-(2-phenylethyl)-1,4-dihydropyridine-3,5-dicarboxylate | 7.52 mmol, 3.9 g | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=CC=CC=C1)CC(=O)OC)C(=O)OC | C26H25Cl2NO6
reactant | NaOH | 15.05 mmol, 6N, 2.51 ml | [OH-].[Na+]
reactant | N-methylpiperazine | 11.28 mmol, 1.25 ml | CN1CCNCC1 | C5H12N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 11.28 mmol, 2.162 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ether | 17 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | methanol | 35 ml | CO | CH4O
product | Dimethyl 4-(2,6-dichlorophenyl)-2-(4-methyl-1- piperazinyl)carbonylmethyl-6-(2-phenylethyl)-1,4-dihydropyridine-3,5-dicarboxylate | 2.63 g | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=CC=CC=C1)CC(=O)N1CCN(CC1)C)C(=O)OC | C30H33Cl2N3O5
